US07504545B2
1,1,3,3-tetramethylguanidine (1.21 g, 10.5 mmol) was dissolved in water (32.8 g). MoO3 (0.225 g, 1.58 mmol) and hydroiodic acid (1.65 g, 7.35 mmol, 57 wt % solution in water) were slowly added to this solution. This yielded a solution of 1,1,3,3-tetramethylguanidine iodide and 1,1,3,3-tetramethylguanidine molybdate with concentrations of 0.22M and 0.094M, respectively.

reactant | 1,1,3,3-tetramethylguanidine | 10.5 mmol, 1.21 g | CN(C(=N)N(C)C)C | C5H13N3
reactant | hydroiodic acid | 7.35 mmol, 1.65 g | I | HI
solvent | water | 32.8 g | O | H2O
product | 1,1,3,3-tetramethylguanidine iodide | [I-].CN(C(=N)N(C)C)C | InChI=1S/C5H13N3.HI/c1-7(2)5(6)8(3)4;/h6H,1-4H3;1H/p-1
